US07838498B2
Preparation of (2S,3R,4R,5S,6R)-2-(4-chloro-5-(4-ethylbenzyl)-2-(2-(trifluoromethoxy)ethoxy)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Compound BQ)
To a solution of 1-bromo-4-chloro-5-(4-ethylbenzyl)-2-(2-(trifluoromethoxy)-ethoxy)benzene (BP) (60 mg, 0.14 mmol) and (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)-tetrahydropyran-2-one (0.19 g, 0.41 mmol) in anhydrous THF (2 mL), was added n-BuLi (2.5 M, 0.11 mL) in a dropwise fashion at −78° C. over 15 min. The resulting solution was stirred at −78° C. for 1 h. Methanesulfonic acid (20 μL in 0.5 mL MeOH) was added and the mixture was allowed to warm to room temperature and stirred overnight. The reaction mixture was partitioned between EtOAc and saturated NaHCO3. The organic layer was dried with anhydrous Na2SO4, filtered and concentrated. The residue was purified by preparative TLC eluting with 5% MeOH in CH2Cl, to collect the crude product. To a solution of the crude product (10 mg, 0.018 mmol) in anhydrous CH2Cl2 (2 mL) at 0° C. was added Et3SiH (6.3 mg, 0.05 mmol) and BF3.Et2O (3.7 mg, 0.05 mmol). After stirring the resulting mixture for 1 h at 0° C., it was partitioned between water and EtOAc. The organic layer was dried over Na2SO4 and evaporated under vacuum. The residue was purified by preparative HPLC to give compound BQ. 1H-NMR (CDCl3, 300 MHz) δ 7.21 (s, 1H), 7.07 (m, 4H), 6.89 (s, 1H), 4.29 (d, J=3.9 Hz, 1H), 4.17 (m, 2H), 4.01 (m, 2H), 3.81 (m, 2H), 3.76 (m, 1H), 3.74-3.49 (m, 6H), 2.61 (m, 3H), 1.20 (m, 3H).

reactant | 1-bromo-4-chloro-5-(4-ethylbenzyl)-2-(2-(trifluoromethoxy)-ethoxy)benzene | 0.14 mmol, 60 mg | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)OCCOC(F)(F)F | C18H17BrClF3O2
reactant | (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)-tetrahydropyran-2-one | 0.41 mmol, 0.19 g | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
reactant | n-BuLi | 2.5 M, 0.11 mL | [Li]CCCC
reactant | Methanesulfonic acid | 20 μL | CS(=O)(=O)O | CH4O3S
reactant | Et3SiH | 0.05 mmol, 6.3 mg | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.Et2O | 0.05 mmol, 3.7 mg | B(F)(F)F.CCOCC
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (2S,3R,4R,5S,6R)-2-(4-chloro-5-(4-ethylbenzyl)-2-(2-(trifluoromethoxy)ethoxy)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | ClC1=CC(=C(C=C1CC1=CC=C(C=C1)CC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OCCOC(F)(F)F | C24H28ClF3O7
